US07842685B2
To a suspension of sodium hydride (4.97 g, 0.129 mol) in 130 mL of anhydrous dimethyl formamide was added diethyl malonate (22.7 mL, 0.142 mol) dropwise at 0° C. and this reaction mixture was stirred at room temperature for 2 h. 1-Benzhydryl-3-(toluene-4-sulfonyl)-azetidine was added to it dropwise at 0° C. and reaction mixture was refluxed at 110° C. for 20 h. Excess sodium hydride was quenched with ammonium chloride, DMF was removed, and the reaction mixture was partitioned between chloroform and water; the aqueous layer was extracted with chloroform, the solvent was removed in vacuo, and purification by (neutral alumina) chromatography and 30% ethyl acetate/hexanes as eluent provided 2-(1-benzhydryl-azetidin-3-yl)-malonic acid diethyl ester. 1H-NMR (400 MHz, CDCl3), δ ppm 7.41-7.17 (m, 10H), 4.34 (s, 1H), 4.25-4.09 (m, 3H), 3.66 (d, 1H, J=3.66 Hz), 3.41-3.37 (m, 2H), 3.07-2.99 (m, 1H), 2.93-2.90 (m, 2H), 1.25-1.23 (m, 6H)

reactant | sodium hydride | 0.129 mol, 4.97 g | [H-].[Na+]
reactant | diethyl malonate | 0.142 mol, 22.7 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-Benzhydryl-3-(toluene-4-sulfonyl)-azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)S(=O)(=O)C1=CC=C(C=C1)C | C23H23NO2S
solvent | dimethyl formamide | 130 mL | CN(C=O)C | C3H7NO
product | 2-(1-benzhydryl-azetidin-3-yl)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H27NO4
